US05864039
6-Bromo-1-phenyl-1-hexanone (2.9 g) and potassium carbonate (3 g) were added to a solution of 4-hydroxy-4-tert-butoxycarbonylaminomethylpiperidine (2.5 g) in dimethylformamide (40 ml), and the mixture was stirred at 60° C. for 2 hr. Water was added to the reaction mixture, and the mixture was extracted with chloroform. The organic layer was washed with brine, dried and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform:methanol=10:1) to give 3.74 g of 4-hydroxy-1-(6-oxo-6-phenylhexyl)-4-tert-butoxycarbonylaminomethylpiperidine.

reactant | 6-Bromo-1-phenyl-1-hexanone | 2.9 g | BrCCCCCC(=O)C1=CC=CC=C1 | C12H15BrO
reactant | potassium carbonate | 3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-hydroxy-4-tert-butoxycarbonylaminomethylpiperidine | 2.5 g | OC1(CCNCC1)CNC(=O)OC(C)(C)C | C11H22N2O3
reactant | Water | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 4-hydroxy-1-(6-oxo-6-phenylhexyl)-4-tert-butoxycarbonylaminomethylpiperidine | 3.74 g | OC1(CCN(CC1)CCCCCC(C1=CC=CC=C1)=O)CNC(=O)OC(C)(C)C | C23H36N2O4
